* /home/user/eSim-Workspace/6Tsram/6Tsram.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: thur Mar 10 16:56:06 2022

.lib "sky130_fd_pr/models/sky130.lib.spice" tt

* Sheet Name: /
xM1  Q Q1 Net-_M1-Pad3_ Net-_M1-Pad3_ sky130_fd_pr__pfet_01v8 w=0.84 l=0.21 
		
xM2  Q Q1 GND GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.21		
xM3  Q1 Q Net-_M1-Pad3_ Net-_M1-Pad3_ sky130_fd_pr__pfet_01v8 w=0.84 l=0.21
		
xM4  Q1 Q GND GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.21	
xM7  Net-_M1-Pad3_ Q vdd vdd sky130_fd_pr__pfet_01v8 w=0.84 l=0.21
	
xM5  Q WL BL GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.21
xM6  RBL Q1 GND GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.21

V1 vdd gnd dc 1.8V

VWL WL gnd pulse 0 1.8 0 60ps 60ps 20ns 40ns
VBL BL gnd pulse 0 1.8 0 60ps 60ps 5ns 10ns
VQ1 Q1 gnd pulse 1.8 0 0 60ps 60ps 5ns 10ns
VRBL RBL gnd pulse 1.8 0 0 60ps 60ps 5ns 10ns
.tran 0.1n 100n 
.control
run
plot V(WL)+8 V(BL)+6 V(RBL)+4 V(Q)+2 V(Q1)
.endc
.end

